US05116979
' 3 g of ethyl dihydrocaffeate was mixed with 3 g of morpholine, and the mixture was then heated with stirring at 150° C. for 2 hours. After cooling, the reaction solution was concentrated, and the resultant residue was then purified through a silica gel column chromatography. Elution was then carried out with a mixture of chloroform:methanol=20:1, thereby obtaining 3.7 g of N-[3-(3,4-dihydroxyphenyl)propionyl]morpholine having a melting point of from 211° to 213° C.

reactant | ethyl dihydrocaffeate | 3 g | C(CCC1=CC(O)=C(O)C=C1)(=O)OCC | C11H14O4
reactant | morpholine | 3 g | N1CCOCC1 | C4H9NO
product | N-[3-(3,4-dihydroxyphenyl)propionyl]morpholine | 3.7 g | OC=1C=C(C=CC1O)CCC(=O)N1CCOCC1 | C13H17NO4
